US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (0.94 g, 5.0 mmol), 4-t-butylbenzoyl chloride (1.1 mL, 5.3 mmol), and triethylamine (2.1 mL, 15 mmol) in tetrahydrofuran (20 mL) provided 4-tert-butyl-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-benzamide (1.2 g). Mp 185-186° C.; Anal. Calcd. for C23H25NO2: C, 79.51; H, 7.25; N, 4.03; Found: C, 79.33; H, 7.27; N, 3.94.

reactant | tetrahydro-dibenzofuran-2-ylamine | 5.0 mmol, 0.94 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | 4-t-butylbenzoyl chloride | 5.3 mmol, 1.1 mL | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | triethylamine | 15 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-tert-butyl-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-benzamide | 1.2 g | C(C)(C)(C)C1=CC=C(C(=O)NC2=CC3=C(OC4=C3CCCC4)C=C2)C=C1 | C23H25NO2
